US05378716
Methyl 3-(4-diphenylmethyloxybutyl)phenoxyacetate
To a solution of methyl 3-(4-hydroxybutyl)phenoxyacetate (372 mg) and diphenylmethyltrichloroacetoimidate (771 mg) in chloroform (4 ml) and cyclohexane (8 ml) was added a catalytic amount of boron trifluoride etherate at 0° C. After being stirred for 30 min at 0° C., the mixture was quenched by addition of a saturated aqueous solution of sodium bicarbonate and extracted with ether. The extract was washed with water and a saturated aqueous solution of sodium chloride, successively, dried over anhydrous magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=4:1) to give the title compound (343 mg) having the following physical data.

reactant | methyl 3-(4-hydroxybutyl)phenoxyacetate | 372 mg | OCCCCC=1C=C(OCC(=O)OC)C=CC1 | C13H18O4
reactant | diphenylmethyltrichloroacetoimidate | 771 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(C(Cl)(Cl)Cl)=N | C15H12Cl3NO
reactant | boron trifluoride etherate | B(F)(F)F.CCOCC
solvent | chloroform | 4 ml | C(Cl)(Cl)Cl | CHCl3
solvent | cyclohexane | 8 ml | C1CCCCC1 | C6H12
product | Methyl 3-(4-diphenylmethyloxybutyl)phenoxyacetate | 343 mg | C1(=CC=CC=C1)C(OCCCCC=1C=C(OCC(=O)OC)C=CC1)C1=CC=CC=C1 | C26H28O4
